US07528173B2
To a solution of (3-nitrophenyl)(hydroxy)acetonitrile (3.5 g, 19.6 mmol) in 100 mL toluene was added sodium azide (8 g, 123 mmol) and Bu3SnCl (26 ml, 98 mmol). The mixture solution was heated at reflux for 10 hours. The solvent was removed in vacuo, the residue was dissolved in water, acidified with 1N HCl, and extracted with 3×100 mL ethyl acetate. The crude product was purified by flash chromatography on silica gel to afford 5-(3-nitrophenyl)(hydroxy)methyltetrazole (2.0 g, 9 mmol, 46%) as yellow solid. To a solution of 5-(3-nitrophenyl)(hydroxy)-methyltetrazole (1.3 g, 5.9 mmol) in 50 mL methanol was added SnCl2 (8 g, 35.4 mmol). The resulting reaction mixture was heated at 60° C. for 20 minutes. The reaction mixture was dried in vacuo, then purified directly over an ion-exchange column to afford 5-(3-aminophenyl)(hydroxy)methyltetrazole (1.0 g, 5.2 mmol, 88%), which was used directly in the next step.

reactant | 5-(3-nitrophenyl)(hydroxy)-methyltetrazole | 5.9 mmol, 1.3 g | [N+](=O)([O-])C=1C=C(C=CC1)C1=NNN(N1C)O | C8H9N5O3
reactant | SnCl2 | 35.4 mmol, 8 g | Cl[Sn]Cl
reactant | methanol | 50 mL | CO | CH4O
product | 5-(3-aminophenyl)(hydroxy)methyltetrazole | 5.2 mmol, 1.0 g, 88% | NC=1C=C(C=CC1)C1=NN=NN1CO | C8H9N5O
